US06277790B1
Ethyl(tetrahydro-2H-pyran-4-yl)amine
At 0° C. and with efficient cooling, 51 g (0.5 mol) of conc. sulfuric acid were added dropwise to a solution of 105 g (2.3 mol) of ethylamine in 0.5 l of methanol. 50 g (0.5 mol) of tetrahydro-2H-pyran-4-one and 18.8 g (0.3 mol) of sodium cyanoborhydride were then added successively. After 16 hours at room temperature, the methanol was distilled off, an excess of 10% strength aqueous sodium hydroxide solution was added and the aqueous phase was extracted three times with dichloromethane. The combined organic phases were washed neutral with water, dried over magnesium sulfate and filtered and the residue was distilled. Bp. 76-82° C. (20 mbar), yield 24 g. 1H NMR (250 MHz, in CDCl3): δ=0.86 (s, 1H), 1.13 (t, 3H), 1.40 (dq, 2H), 1.84 (m, 2H), 2.68 (m, 3H), 3.40 (dt, 2H), 3.98 (m, 2H).

reactant | sulfuric acid | 0.5 mol, 51 g | S(O)(O)(=O)=O | H2O4S
reactant | ethylamine | 2.3 mol, 105 g | C(C)N | C2H7N
reactant | tetrahydro-2H-pyran-4-one | 0.5 mol, 50 g | O1CCC(CC1)=O | C5H8O2
reactant | sodium | 0.3 mol, 18.8 g | [Na] | Na
solvent | methanol | 0.5 l | CO | CH4O
product | Ethyl(tetrahydro-2H-pyran-4-yl)amine | C(C)NC1CCOCC1 | C7H15NO
